US07498353B2
Synthesis of (R)-tert-Butyl 1-(Methoxy(methyl)amino)-3-methyl-1-oxobutan-2-ylcarbamate
N-Boc-L-valine (3.72 g, 17.2 mmol) and N,O-dimethylhydroxylamine hydrochloride (1.84 g, 18.86 mmol) were dissolved in anhydrous methylene chloride (50 mL) under nitrogen. Triethylamine (2.09 g, 20.64 mmol) was added to the mixture, followed by dropwise addition of diethyl cyanophosphonate (3.09 g, 18.92 mmol). The resulting mixture was stirred at room temperature for 12 h. The reaction was then diluted with methylene chloride (150 mL) and washed with water (100 mL). The aqueous layer was extracted with methylene chloride (50 mL). The combined organic layers were washed successively with aqueous sodium bicarbonate (2×100 mL) and brine (2×100 mL), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The crude residue was carried forward without further purification. 1H NMR (CDCl3): 5.28 (d, 1H), 4.61 (m, 1H), 3.76 (s, 3H), 3.20 (s, 3H), 2.09-1.85 (m, 1H), 1.43 (s, 9H), 0.99 (d, 3H), 0.90 ppm (d, 3H).

reactant | N-Boc-L-valine | 17.2 mmol, 3.72 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 18.86 mmol, 1.84 g | Cl.CNOC
reactant | Triethylamine | 20.64 mmol, 2.09 g | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 18.92 mmol, 3.09 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 1-(Methoxy(methyl)amino)-3-methyl-1-oxobutan-2-ylcarbamate | CON(C([C@@H](C(C)C)NC(OC(C)(C)C)=O)=O)C | C12H24N2O4
